US08431575B2
A mixture of (±)-trans-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-3-fluoro-piperidine-1-carboxylic acid benzyl ester (65 mg, 0.12 mmol) and 10% palladium on carbon (10 mg) in MeOH (5 mL) was stirred under an atmosphere of H2 for 1.5 hrs, filtered through celite and concentrated to provide (±)-trans-3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(3-fluoro-piperidin-4-yloxy)-pyridazine (40 mg).

reactant | (±)-trans-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-3-fluoro-piperidine-1-carboxylic acid benzyl ester | 0.12 mmol, 65 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)F | C33H40FN3O4
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | (±)-trans-3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(3-fluoro-piperidin-4-yloxy)-pyridazine | 40 mg | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)O[C@H]1[C@@H](CNCC1)F | C25H34FN3O2
